US04965359
(c) Production of 1-[(2-chlorophenyl)methyl]-3-(2-propenyl)-4-piperidone
16.60 g (0.145 mol) of K-tert-butylate was introduced and warmed to 75° to 80° C. Then 50 g (0.125 mol) of di-tert-butyl-N-[(2-chlorophenyl)methyl]-3,3'-iminodipropionate in 100 ml of toluene was added within 10 minutes. After 20 minutes, the toluene was practically completely evaporated at 75° C. and 220 mbars. Then 400 ml of tert-butanol was added to 40° C. 17.94 g (0.145 mol) of allylbromide was added to the resulting suspension at 40° C. in 10 minutes. It was allowed to stir for 45 minutes more at 40° C. The reaction mixture was then completely concentrated by evaporation and then the solid residue was dissolved in 500 ml each of H2O plus 300 ml of ether. The aqueous phase was again extracted twice with 100 ml each of ether. The combined ether phases was washed with 50 ml of saturated Na2SO4 and then concentrated by evaporation. Then 500 ml of 0.5 n HCl was added to the resulting oil and refluxed for 30 to 45 minutes (CO2 development). The reaction mixture was cooled to room temperature and mixed again with 20 ml of HCl conc. It was extracted three times with 100 ml of ether and the ether phase was dried with MgSO4 and evaporated. The acidic water phase was made basic with NaOH and extracted three times with 200 ml of ether. The ether phases were combined and dried with MGSO4 and evaporated. A yellowish oil resulted. The yield was 28.66 g (87 percent). Data concerning the compound was:

reactant | di-tert-butyl-N-[(2-chlorophenyl)methyl]-3,3'-iminodipropionate | 0.125 mol, 50 g | C(C)(C)(C)OC(CCN(CCC(=O)OC(C)(C)C)CC1=C(C=CC=C1)Cl)=O | C21H32ClNO4
reactant | allylbromide | 0.145 mol, 17.94 g | C(C=C)Br | C3H5Br
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[(2-chlorophenyl)methyl]-3-(2-propenyl)-4-piperidone | ClC1=C(C=CC=C1)CN1CC(C(CC1)=O)CC=C | C15H18ClNO
